US05254571
Methyl 1,2-dihydro-4-methyl-2-oxo-6-(2-propoxyphenyl)-pyridine-3-carboxylate
A mixture of 1,2-dihydro-4-methyl-2-oxo-6-(2-propoxyphenyl)pyridine-3-carboxylic acid (0.75 g), methanol (50 ml) and concentrated sulfuric acid (0.5 ml) was heated under reflux for 6 hours. The residue left after evaporation was treated with water (30 ml) and potassium carbonate was added to pH 10. The resultant solid was washed with water and with ether to afford the title compound, 0.6 g, m.p. 167°-169° C.

reactant | 1,2-dihydro-4-methyl-2-oxo-6-(2-propoxyphenyl)pyridine-3-carboxylic acid | 0.75 g | CC1=C(C(NC(=C1)C1=C(C=CC=C1)OCCC)=O)C(=O)O | C16H17NO4
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 ml | CO | CH4O
product | Methyl 1,2-dihydro-4-methyl-2-oxo-6-(2-propoxyphenyl)-pyridine-3-carboxylate | CC1=C(C(NC(=C1)C1=C(C=CC=C1)OCCC)=O)C(=O)OC | C17H19NO4
